US08835462B2
To a solution of (E)-methyl 3-((3S,6S,7R,8S)-8-benzyl-3-(tert-butoxycarbonylamino)-6-methyl-4-oxo-1,5-dioxonan-7-yloxy)acrylate (168 mg, 0.362 mmol, 1.00 equiv) in EtOAc (3.6 mL, 0.1 M) was added 10% Pd/C (19 mg, 0.018 mmol, 0.050 equiv). The flask was equipped with a rubber septum and the atmosphere was replaced with H2 via needle-equipped balloon. After 17 h at room temperature, the catalyst was removed by filtration through Celite® and the pad was flushed with EtOAc. The filtrate was concentrated to provide methyl 3-((3S,6S,7R,8S)-8-benzyl-3-(tert-butoxycarbonylamino)-6-methyl-4-oxo-1,5-dioxonan-7-yloxy)propanoate (163 mg, 97%) as a clear, colorless film: IR (neat film) 3357, 3026, 2978, 2880, 1741, 1711, 1497, 1367, 1294, 1198, 1163, 1070, 1023, 911, 731 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.34-7.27 (m, 2H), 7.24-7.10 (m, 3H), 5.18-5.03 (d, J=8.3 Hz, 1H), 5.01-4.81 (dq, J=9.2, 6.4 Hz, 1H), 4.69-4.47 (q, J=7.3 Hz, 1H), 4.07-3.76 (m, 3H), 3.75-3.61 (s, 3H), 3.53-3.31 (m, 2H), 3.31-3.03 (m, 3H), 2.71-2.52 (t, J=6.2 Hz, 2H), 2.41-2.22 (t, J=12.6 Hz, 1H), 1.98-1.75 (s, 1H), 1.53-1.46 (d, J=6.4 Hz, 3H), 1.46-1.36 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 172.23, 171.73, 139.78, 129.15, 128.44, 126.14, 85.23, 80.11, 75.32, 72.86, 72.28, 67.67, 52.91, 51.82, 47.16, 35.24, 35.05, 28.26, 18.68; HRMS-ESI (m/z) [M+Na]+ calc'd for C24H35NO8Na, 488.2255. found, 488.2260.

reactant | (E)-methyl 3-((3S,6S,7R,8S)-8-benzyl-3-(tert-butoxycarbonylamino)-6-methyl-4-oxo-1,5-dioxonan-7-yloxy)acrylate | 0.362 mmol, 168 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@@H]1[C@H]([C@@H](OC([C@H](COC1)NC(=O)OC(C)(C)C)=O)C)O/C=C/C(=O)OC | C24H33NO8
solvent | EtOAc | 0.1 M, 3.6 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.018 mmol, 19 mg, 0.050 equiv | [Pd] | Pd
product | methyl 3-((3S,6S,7R,8S)-8-benzyl-3-(tert-butoxycarbonylamino)-6-methyl-4-oxo-1,5-dioxonan-7-yloxy)propanoate | 163 mg, 97% | C(C1=CC=CC=C1)[C@@H]1[C@H]([C@@H](OC([C@H](COC1)NC(=O)OC(C)(C)C)=O)C)OCCC(=O)OC | C24H35NO8
